US09403827B2
Step 17.6: 5-Chloro-1-methyl-3-nitropyridin-2(1H)-one
A solution of 5-chloro-2-hydroxy-3-nitropyridine (15.0 g, 86 mmol) in DMF (200 ml) was cooled down to 0° C. under argon. Then NaH (4.13 g, 103 mmol) was added by portions in 25 min and the reaction mixture was stirred at 0° C. for 1 hour. After that CH3I (8.06 ml, 129 mmol) was added dropwise and the ice-bath was removed. The reaction mixture was stirred at RT for 4 hours. The solution was concentrated and then the slurry mixture was taken in 250 ml water and extracted twice with 300 ml ethyl acetate. The combined organic phases were washed twice with 200 ml brine, dried (Na2SO4) and evaporated to dryness to afford 14.63 g (78 mmol, 90% yield) of the title compound as dark yellow solid. LCMS: (M+H)=189; tR=0.55 min (LC-MS 4). HPLC: tR=1.77 min (HPLC 5). 1H-NMR (d6-DMSO, 400 MHz) δ ppm 8.53 (s, 2H) 3.52 (s, 3H).

reactant | 5-chloro-2-hydroxy-3-nitropyridine | 86 mmol, 15.0 g | ClC=1C=C(C(=NC1)O)[N+](=O)[O-] | C5H3ClN2O3
reactant | NaH | 103 mmol, 4.13 g | [H-].[Na+]
reactant | CH3I | 129 mmol, 8.06 ml | CI | CH3I
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-1-methyl-3-nitropyridin-2(1H)-one | 78 mmol, 14.63 g, 90% yield | ClC=1C=C(C(N(C1)C)=O)[N+](=O)[O-] | C6H5ClN2O3
